US08859557B2
1.00 g (1.63 mmol) of phenyl [5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]carbamate, 596 mg (3.25 mmol) of 1-(1-methylpiperidin-4-yl)piperazine and 8 ml of dried THF were combined and the mixture was stirred at room temperature for 24 hours. The end of the reaction was detected with the aid of analytical HPLC (RP, eluents acetonitrile/water, 0.01% TFA). The solvent was removed, and the residue was purified by preparative HPLC using dichloromethane and 6% methanol as eluents on a Chromolith column (normal phase, from Merck). After repeated column chromatography, it was possible to isolate 230 mg (0.33 mmol, 21%) of the N-[5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-(1-methylpiperidin-4-yl)piperazine-1-carboxamide. Alternatively, work-up and purification after the reaction had ended could be carried out as follows: the solvent was removed. The crude material was dissolved in ethyl acetate and extracted with 1 N HCl. The impurities were detected in the organic phase, the product being in the acidic aqueous phase. Accordingly, the aqueous phase was neutralized with 2 N NaOH solution and extracted with ethyl acetate. After drying over magnesium sulphate, filtration and removal of the ethyl acetate under reduced pressure, the product could be crystallized with diethyl ether. The N-[5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-(1-methylpiperidin-4-yl)piperazine-1-carboxamide was obtained in yields of >50%.

reactant | phenyl [5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]carbamate | 1.63 mmol, 1.00 g | C(#N)C=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)(C=1C(=NC=CC1)OCC)NC(OC1=CC=CC=C1)=O | C31H26N4O8S
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 3.25 mmol, 596 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetonitrile water | C(C)#N.O
product | N-[5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-(1-methylpiperidin-4-yl)piperazine-1-carboxamide | 0.33 mmol, 230 mg, 21% | C(#N)C=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)(C=1C(=NC=CC1)OCC)NC(=O)N1CCN(CC1)C1CCN(CC1)C | C35H41N7O7S
